### ISSUE TITLE
grind: (kernel) application type mismatch

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#9948]
After the tutorial last week in Glasgow I wanted to see if my intro example would work with grind. I was hoping that

```
theorem sum_of_n (n : Nat) :
  (List.range (n + 1)).sum = n * (n + 1) / 2 := by
  induction n with
  | zero => rfl
  | succ k ih =>
    grind
```
would just work, but there seem to be lemmas annotations about (at least) `range` missing.

I then tried 
```
theorem sum_of_n (n : Nat) :
  (List.range (n + 1)).sum = n * (n + 1) / 2 := by
  induction n with
  | zero => rfl
  | succ k ih =>
    grind [List.range_succ]
```   

but I got
```
(kernel) application type mismatch
  Int.Linear.le_combine ctx' p_60 p_53 p_4 (eagerReduce (Eq.refl true))
    …
    h
argument has type
  ↑(List.range (k + 1)).sum + -1 * ↑((k + 1) * (k + 2)) + ↑k ^ 2 + 1 ≤ 0
but function has type
  Int.Linear.Poly.denote' ctx' p_53 ≤ 0 → Int.Linear.Poly.denote' ctx' p_4 ≤ 0
```

## Version

Lean 4.23.0-rc2 and Lean 4.24.0-nightly-2025-08-16
